US09340538B2
Ethyl 6-(((R)-3-((((S)-2-aminobutanoyl)oxy)methyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 1.9 mmol) was reacted with (S)-2-((tert-butoxycarbonyl)amino)butanoic acid (0.61 g, 3 mmol) according to the procedure as described in Example 49 to give the title compound as yellow oil (0.37 g, 31%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-(hydroxymethyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.9 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@H](COCC1)CO)C=1SC=CN1 | C22H24BrFN4O4S
reactant | (S)-2-((tert-butoxycarbonyl)amino)butanoic acid | 3 mmol, 0.61 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
product | Ethyl 6-(((R)-3-((((S)-2-aminobutanoyl)oxy)methyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.37 g, 31% | N[C@H](C(=O)OC[C@H]1COCCN1CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Br)C(=O)OCC)CC | C26H31BrFN5O5S
